US06479497B1
(S)-N-[5-(4-Methylpiperazin-1-yl)-3,4-dihydro-2H-1-benzopyran-3-yl]-4-piperidinobenzamide
A suspension of 4-piperidinobenzoic acid (276 mg, 1.35 mmol; described in: Weringa, W. D.; Janssen, M. J. Recl. Trav. Chim. Pays-Bas 1968,87(12), 1372-1380) and 1,1′-carbonyldiimidazole (229 mg, 1.41 mmol) in anhydrous N,N-dimethylformamide (11 mL) was placed in an oil bath at 75° C. After 45 min of stirring, the mixture was allowed to cool. A solution of (S)-3-amino-5-(4-methylpiperazin-1-yl)-3,4-dihydro-2H-1-benzopyran (317 mg, 1.28 mmol) in N,N-dimethylformamide (5 mL) was added, and the mixture was stirred at room temperature for 40 h. Another portion of 1,1′-carbonyldiimidazole (83 mg, 0.51 mmol) was added, and the reaction was stirred for 3 days. At this time, the reaction was not complete and a final amount of 1,1′-carbonyldiimidazole (42 mg, 0.25 mmol) was added. The reaction mixture was heated for 3 h at 50° C. after which the solvent was removed in vacuo. The residue was purified by column chromatography on silica (eluent: chloroform/ethanol; 92:8+0.5% NH3) affording 202 mg (36% yield) of the title compound as a white solid: mp 178-180° C.; [α]22D−159° (c 1.0, chloroform); EIMS (70 eV) m/z (relative intensity) 434 (35, M30 ).

reactant | 4-piperidinobenzoic acid | 1.35 mmol, 276 mg | N1(CCCCC1)C1=CC=C(C(=O)O)C=C1 | C12H15NO2
reactant | 1,1′-carbonyldiimidazole | 1.41 mmol, 229 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (S)-3-amino-5-(4-methylpiperazin-1-yl)-3,4-dihydro-2H-1-benzopyran | 1.28 mmol, 317 mg | N[C@@H]1COC2=C(C1)C(=CC=C2)N2CCN(CC2)C | C14H21N3O
reactant | 1,1′-carbonyldiimidazole | 0.51 mmol, 83 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1,1′-carbonyldiimidazole | 0.25 mmol, 42 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | N,N-dimethylformamide | 11 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | (S)-N-[5-(4-Methylpiperazin-1-yl)-3,4-dihydro-2H-1-benzopyran-3-yl]-4-piperidinobenzamide | 202 mg, 36% yield | CN1CCN(CC1)C1=CC=CC2=C1C[C@@H](CO2)NC(C2=CC=C(C=C2)N2CCCCC2)=O | C26H34N4O2
